US09029409B2
To a solution of ((2R,5S)-5-vinyl-1,4-dioxan-2-yl)methanol (Preparation #17, 0.25 g, 1.734 mmol) in THF (3 mL) was added NaH (41.6 mg, 1.734 mmol) at 0° C. The reaction mixture was slowly warmed to RT and stirred for 25 min. The reaction mixture was cooled to about 0° C. and iodomethane (0.108 mL, 1.734 mmol) was added. Upon completion of addition, the reaction mixture was slowly warmed to RT and stirred for about 2.5 h. The reaction mixture was diluted with water (20 mL) and the product extracted with EtOAc (2×10 mL). The organic layer dried over sodium sulfate and concentrated under reduced pressure. The crude material obtained was purified by column chromatography eluting with 10% EtOAc in hexane to afford (2R,5S)-2-(methoxymethyl)-5-vinyl-1,4-dioxane 0.1 g (36.5%), 1H NMR (400 MHz, CDCl3): δ 5.75-5.67 (m, 1H), 5.36-5.32 (m, 1H), 5.23-5.20 (m, 1H), 4.05-4.00 (m, 1H), 3.87-3.70 (m, 3H), 3.55-3.49 (m, 1H), 3.42-3.35 (m, 6H), ES-MS: m/z 158 (m+H).

reactant | ((2R,5S)-5-vinyl-1,4-dioxan-2-yl)methanol | 1.734 mmol, 0.25 g | C(=C)[C@@H]1OC[C@H](OC1)CO | C7H12O3
reactant | NaH | 1.734 mmol, 41.6 mg | [H-].[Na+]
reactant | iodomethane | 1.734 mmol, 0.108 mL | IC | CH3I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (2R,5S)-2-(methoxymethyl)-5-vinyl-1,4-dioxane | 0.1 g, 36.5% | COC[C@H]1OC[C@@H](OC1)C=C | C8H14O3
